US04673737
The N-acylations are carried out by using the methods employed for the acylation of the cephalosporin nuclei such as 7-ACA and 7-ADCA. In an example of the acylation benzyl 7-amino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate in acetonitrile is treated with phenoxyacetyl chloride in the presence of an acid-binding agent such as triethylamine or pyridine to provide benzyl 7-phenoxyacetylamino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate.

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 7-ADCA | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | benzyl 7-amino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=CC=C2)C1=O | C16H15F3N2O6S
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | benzyl 7-phenoxyacetylamino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=CC=C2)C1=O | C24H21F3N2O8S
